US07288538B2
To a solution of 4-nitro-m-xylene (0.96 g, 6.4 mmol) in acetic acid (8 mL) and sulfuric acid (4 g) and Water (4 mL) was added potassium bromate (1.18 g, 7 mmol) portion-wise over 20 minutes. The mixture was allowed to stir 72 hours at room temperature. The desired product was recovered together with starting material after partition between water, and ethyl acetate (2×) washing with water, saturated sodium bicarbonate solution and brine. The organic layer was dried over sodium sulfate, decanted and upon concentration under reduced pressure yielded the desired 2-bromo-1,3-dimethyl-4-nitrobenzene and starting material as an oily solid. The crude mixture was carried on to step two without further purification.

reactant | 4-nitro-m-xylene | 6.4 mmol, 0.96 g | [N+](=O)([O-])C1=C(C=C(C=C1)C)C | C8H9NO2
reactant | sulfuric acid | 4 g | S(O)(O)(=O)=O | H2O4S
reactant | Water | 4 mL | O | H2O
reactant | potassium bromate | 7 mmol, 1.18 g | Br(=O)(=O)[O-].[K+]
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1,3-dimethyl-4-nitrobenzene | BrC1=C(C=CC(=C1C)[N+](=O)[O-])C | C8H8BrNO2
